US06743608B2
(2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid
Ethyl (2R/S) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate (13 g) was added to an aqueous 0.1 M phosphate buffer pH 7 (2.6 μl). Protease 2A from Aspergillus oryzae (Fluka No: 82463; 0.51 units/mg) (7.9 g) was added and the mixture was stirred for 14 hours at room temperature. The conversion of ester to acid was followed by the described isocratic HPLC method 1. After stirring for 6 hours the reaction mixture was extracted 5× with ethyl acetate until no more ester could be detected in the aqueous phase (pH of the aqueous phase 6.8). A 4 M aqueous hydrogen chloride solution (200 ml) was added (pH of the aqueous phase 1) followed by tert-butyl-methylether (500 ml). The emulsion was filtered through hyflo and the two phases separated. The aqueous phase was extracted with tert-butyl-methylether (500 ml×3). The pooled organic phases were dried with Na2SO4 and evaporated to give 4.9 g of the title product (CCE method 1: ee=97%). δ(400 MHz; [2 H6]DMSO) 1.04 (3H, t); 2.78 (2H, ddd), 3.38 (1H, dq); 3.49 (1H, dq); 3.90 (1H, m), 6.62 (2H, d); 7.0 (2H, d); 9.1 (1H, bs); 12.53 (1H, bs).

reactant | Ethyl (2R/S) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate | 13 g | C(C)OC(C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
reactant | phosphate | 0.1 M, 2.6 μl, pH 7 | P(=O)([O-])([O-])[O-]
product | (2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid | 4.9 g | C(C)O[C@H](C(=O)O)CC1=CC=C(C=C1)O | C11H14O4
